US04564612
A mixture of 20 ml of ethanol and 0.5 g of 3(R)-(N-benzyl-N-ethoxycarbonylmethylamino)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrochloride obtained in Reference Example 35 is catalytic reduction over 0.5 g of 10% palladium-carbon (containing 50% of moisture) as a catalyst at ordinary temperature and at atmospheric pressure. After the absorption of hydrogen stops, the catalyst is filtered off, and the filtrate is concentrated to give crystals. Ethyl acetate is added to the crystals, and the deposited substance are collected by filtration to yield 0.3 g of 3(R)-ethoxycarbonylmethylamino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid as colorless prisms, m.p. 223°-226° C.

reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 3(R)-(N-benzyl-N-ethoxycarbonylmethylamino)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid hydrochloride | 0.5 g | Cl.C(C1=CC=CC=C1)N(CC(=O)OCC)[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3(R)-ethoxycarbonylmethylamino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetic acid | 0.3 g | C(C)OC(=O)CN[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C15H18N2O5S
